US05614544
(E,E,E)-5-[4-[2-[2-(2-Furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-ol was oxidized with activated manganese dioxide in the same manner as in Reference Example 25 to yield (E,E,E)-5-[4-[2-[2-(2-furyl)-5- methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-al, which was then recrystallized from ethyl acetate to yield light brown prisms having a melting point of 179°-180° C.

reactant | (E,E,E)-5-[4-[2-[2-(2-Furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-ol | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C=C1)/C=C/C=C/CO)C | C21H19NO3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E,E,E)-5-[4-[2-[2-(2-furyl)-5- methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-al | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C=C1)/C=C/C=C/C=O)C | C21H17NO3
